US06268363B1
1-1) 1-(3,4-Methylenedioxybenzyl)-5-hydroxymethyl-1H-imidazole
A modified method from J. Med Chem., 33, 1312-1329. 1990 was carried out using dihydroxyacetone dimer and piperonylamine as starting materials. 1.37 g(10 mmol) of piperonylamine, 1.08 g(5.5 mmol) of dihydroxyacetone dimer and 1.15 g(11 mmol) of potassium thiocyanide were introduced to 10 ml of isopropyl alcohol, and then 2 ml of acetic acid was added thereto and the mixture was reacted at room temperature for 48 hours. The reaction mixture was filtered and the residual solid thus obtained was washed with 5 ml of isopropyl alcohol(×2) and with 5 ml of water(×2). The filtered solid was introduced into 12.5 ml of 10% aqueous nitric acid solution and the resulting solution was cooled down to 0° C. After 10 mg of sodium nitrite was added portionwise to the reaction solution, the mixture was reacted at room temperature for 1 hour. The aqueous solution was washed with 10 ml of ethyl acetate, basified, and then recrystallized to obtain 1.16 g (Yield 50%) of the title compound.

reactant | dihydroxyacetone dimer | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | piperonylamine | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | piperonylamine | 10 mmol, 1.37 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | dihydroxyacetone dimer | 5.5 mmol, 1.08 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | potassium thiocyanide | 11 mmol, 1.15 g | S(C#N)C#N.[K]
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-(3,4-Methylenedioxybenzyl)-5-hydroxymethyl-1H-imidazole | 1.16 g, Yield 50% | C1OC=2C=C(CN3C=NC=C3CO)C=CC2O1 | C12H12N2O3
